US06960586B2
6-Bromo-2-tert-butyldimethylsilyloxy-1-methylnaphthalene (35.1 g) was dissolved in THF (350 mL) and the solution was cooled to −70° C. A solution (1.6 M: 82 mL) of n-butyllithium in hexane was slowly added dropwise and the mixture was stirred for 1 hr. Then, a solution (300 mL) of 4-formyl-1-trityl-1H-imidazole (30.5 g) in THF was added dropwise. After stirring at −70° C. for 30 min., the reaction was stopped by adding 20% aqueous ammonium chloride. The organic layer was separated and the aqueous layer was extracted with ethyl acetate. The combined organic layers were washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated to give crude (6-tert-butyldimethylsilyloxy-5-methyl-2-naphthyl)(1-trityl-1H-imidazol-4-yl)methanol as an amorphous solid.

reactant | 6-Bromo-2-tert-butyldimethylsilyloxy-1-methylnaphthalene | 35.1 g | BrC=1C=C2C=CC(=C(C2=CC1)C)O[Si](C)(C)C(C)(C)C | C17H23BrOSi
reactant | n-butyllithium | 1.6 M, 82 mL | C(CCC)[Li]
reactant | 4-formyl-1-trityl-1H-imidazole | 300 mL, 30.5 g | C(=O)C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C23H18N2O
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 350 mL | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | (6-tert-butyldimethylsilyloxy-5-methyl-2-naphthyl)(1-trityl-1H-imidazol-4-yl)methanol | [Si](C)(C)(C(C)(C)C)OC=1C(=C2C=CC(=CC2=CC1)C(O)C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C | C40H42N2O2Si
